* Z:\mnt\spice-netlists\LT3684.asc
L1 N004 OUT 4.7µ
D1 0 N004 MBRS340
C1 OUT 0 22µ
V1 IN 0 24
R1 OUT N008 165K
R2 N008 0 100K
C2 N004 N006 .47µ
C3 N002 0 680p
R3 N003 N002 16.2K
R4 N005 0 60.4K
R5 OUT N007 100K
R6 IN N001 100K
C4 N001 0 .1µ
XU1 OUT N006 N004 IN N001 N007 OUT N008 N003 N005 0 LT3684
Rload OUT 0 1.65
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
* LT3684 - 36V, 2A Step-Down Switching Regulator \nInput: 24V       Output: 3.3V@2A
.lib LT3684.sub
.backanno
.end
